US09303035B2
Step 5: 8-(Aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
Ethanolamine (108 μl, 1.790 mmol) was added to a solution of 10-(5-chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione (106 mg, 0.179 mmol) in toluene (3087 μl). The mixture was stirred at 70° C. for 6.5 hours then at room temperature for 16 hours. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (50 ml). The organic phase was washed with 1M NaOH(aq) (20 ml) passed through a hydrophobic frit and evaporated under vacuum to afford the title compound as a mixture of diastereomers.

reactant | Ethanolamine | 1.790 mmol, 108 μl | C(O)CN | C2H7NO
reactant | 10-(5-chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | 0.179 mmol, 106 mg | ClC1=CC=C(O1)C1OC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CN1C(C2=CC=CC=C2C1=O)=O | C28H22ClN5O6S
solvent | toluene | 3087 μl | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 8-(Aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | NCC1CN2C(C(O1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O | C20H20ClN5O4S
